US04486597
A 20 g quantity of morpholinium N-(3,4-dimethoxycinnamoyl)anthranilate is dissolved in 40 ml of water and the resultant solution is added dropwise to 45 ml of diluted hydrochloric acid (5 ml of conc. hydrochloric acid and 40 ml of water) with stirring. The precipitated crystals which form are collected by filtration, washed with water and then dried at 90°-100° C. under reduced pressure for 3 hours to yield 15.5 g of N-(3,4-dimethoxycinnamoyl)anthranilic acid (98% yield). The compound is confirmed as identical to that obtained in EXAMPLE VI.

reactant | morpholinium N-(3,4-dimethoxycinnamoyl)anthranilate | COC=1C=C(C=CC(=O)NC=2C(C(=O)[O-])=CC=CC2)C=CC1OC.[NH2+]1CCOCC1
reactant | hydrochloric acid | 45 ml | Cl | ClH
solvent | water | 40 ml | O | H2O
product | N-(3,4-dimethoxycinnamoyl)anthranilic acid | 15.5 g, 98% yield | COC=1C=C(C=CC(=O)NC=2C(C(=O)O)=CC=CC2)C=CC1OC | C18H17NO5
